US05077402
C) 1-(4-Dimethylaminophenyl)-2-dimethylamino-2-benzyl-butan-1-one
A stirred autoclave is filled with 50 g (0.167 mol) of 1-(4-fluorophenyl)-2-dimethylamino-2-benzylbutan-1-one (crude product from B), 300 ml of dimethylformamide and 23.1 g (0.167 mol) of potassium carbonate. 22.6 g (0.5 mol) of dimethylamine are then added under pressure (3-4 bar). The mixture is heated to 100° and stirred at this temperature for 24 hours.

reactant | 1-(4-fluorophenyl)-2-dimethylamino-2-benzylbutan-1-one | 0.167 mol, 50 g | FC1=CC=C(C=C1)C(C(CC)(CC1=CC=CC=C1)N(C)C)=O | C19H22FNO
reactant | potassium carbonate | 0.167 mol, 23.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylamine | 0.5 mol, 22.6 g | CNC | C2H7N
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 1-(4-Dimethylaminophenyl)-2-dimethylamino-2-benzyl-butan-1-one | CN(C1=CC=C(C=C1)C(C(CC)(CC1=CC=CC=C1)N(C)C)=O)C | C21H28N2O
